US07470722B2
Naphthalene-2-sulfonic acid (4-acetyl-phenyl)-amide
4′-Amino acetophenone (1.20 g, 5.29 mmol) was dissolved in THF (8 ml) before pyridine (1.28 ml, 15.8 mmol) was added, leaving a yellow solution. The naphthalenesulfonylchloride (0.715 g, 5.29 mmol) was then added dropwise with stirring. After stirring for 5 hours, THF and pyridine were removed in vacuo. The desired sulfonamide (1.074 g, 3.30 mmol, 62%) was recrystallized from ethyl acetate and hexanes. It had LC-MS (ES+): 326 [MH]+ m/e

reactant | 4′-Amino acetophenone | 5.29 mmol, 1.20 g | NC1=CC=C(C=C1)C(C)=O | C8H9NO
reactant | pyridine | 15.8 mmol, 1.28 ml | N1=CC=CC=C1 | C5H5N
reactant | naphthalenesulfonylchloride | 5.29 mmol, 0.715 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | THF | 8 ml | C1CCOC1 | C4H8O
product | Naphthalene-2-sulfonic acid (4-acetyl-phenyl)-amide | C(C)(=O)C1=CC=C(C=C1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C18H15NO3S
